US07855292B2
A. (R)-4-Benzyl-3-propionyl-oxazolidin-2-one
To a solution of (R)-4-benzyl-oxazolidin-2-one (3.0 g, 16.9 mmol) in THF (100 mL) at −78° C. was added n-BuLi (2.5 M hexanes, 7.1 mL, 17.8 mmol) in rapid drops via syringe. The solution was stirred for 20 min at −78° C. Propionyl chloride (1.6 mL, 18.4 mmol) was added rapidly via syringe. The reaction solution was allowed to warm slowly to rt overnight then was quenched by the addition of satd. aq. NH4Cl. The mixture was concentrated, diluted with water, and extracted with DCM (3×). The combined organic layers were dried (Na2SO4) and concentrated to give the crude product, which was purified by flash chromatography (EtOAc/hexanes) to afford the title compound as a white solid (3.70 g, 94%). 1H NMR (500 MHz, CDCl3): 7.36-7.31 (m, 2H), 7.30-7.25 (m, 1H), 7.23-7.19 (m, 2H), 4.71-4.64 (m, 1H), 4.20 (dd, J=9.1, 7.5, 1H), 4.17 (dd, J=9.1, 3.1, 1H), 3.31 (dd, J=13.4, 3.3, 1H), 2.99 (dq, J=17.9, 7.4, 1H), 2.93 (dq, J=17.9, 7.3, 1H), 2.77 (dd, J=13.4, 9.6, 1H), 1.21 (t, J=7.3, 3H).

reactant | (R)-4-benzyl-oxazolidin-2-one | 16.9 mmol, 3.0 g | C(C1=CC=CC=C1)[C@H]1NC(OC1)=O | C10H11NO2
reactant | n-BuLi | 17.8 mmol, 2.5 M, 7.1 mL | [Li]CCCC
reactant | Propionyl chloride | 18.4 mmol, 1.6 mL | C(CC)(=O)Cl | C3H5ClO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (R)-4-Benzyl-3-propionyl-oxazolidin-2-one | 3.70 g, 94% | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(CC)=O | C13H15NO3
